*******************************************************************************
*****************************************************************
* NXP BUK9Y14_40B
*
* Polarity N-Channel
* Ratings 40V/1.40E-02OHMS/20A
*
* Date Created Wed Mar 17 04:29:59 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y14_40B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 800000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00659437467547523 TC=0.00865383188555582,-1.54864073673642e-05
RBD 9 4 0.00125408429978558 TC=0.00865383188555582,-1.54864073673642e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 750000000000
CGS 2 6 1.355e-09
RG 1 2 1.55663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	
+ -20	
+ -10	1645
+ -5	1624
+ -2	1852
+ -1	1762
+ -0.5	1415
+ -0.2	1217
+ -0.1	1148
+ 0	1022.5
+ 0.1	923
+ 0.2	857
+ 0.5	634
+ 1	440
+ 2	318
+ 5	236
+ 10	184
+ 12	172
+ 14	164
+ 20	146
+ 25	135
+ 32	125



.MODEL MINT NMOS(Vto=1.64229112579206 Kp=5.6955e+01 Nfs=320000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=2.62652802559445e-13
+ N=1 M=0.49 VJ=0.5 Fc=0.5 Cjo=8.68e-10 Tt=2.5e-08)

.ENDS




*******************************************************************************
